US07968328B2
1-(3-tert-Butoxyphenyl)ethylamine (86 g, 0.45 mol) was admixed with isopropyl methoxyacetate (129 g, 0.98 mol) and Novozyme® 435 (0.9 g), and stirred at room temperature for 16 h. The subsequent analysis of the optical purity showed that the S enantiomer of 1-(3-tert-butoxyphenyl)ethylamine was enantiomerically pure. The acylated R enantiomer had an optical purity of 99.1%. The mixture was filtered through kieselguhr and washed with toluene (200 ml), and the filtrate was concentrated at 40° C. on a rotary evaporator. The residue was taken up in toluene (200 ml) and admixed dropwise with 37% sulfuric acid (29.5 g, 0.12 mol). A greasy, unfilterable precipitate formed, which was dissolved in water (250 ml). The aqueous solution was washed 3 times with 50 ml each time of toluene. The combined organic phases were washed once with 50 ml of water and then dried over sodium sulfate. After the solvent had been removed, the residue was freed of further volatile constituents in an oil-pump vacuum at 0.5 bar and 85° C. 70 g of crude (R)—N-1-(3-tert-butoxyphenyl)ethylmethoxyacetamide were obtained, whose chemical purity, according to GC analysis, was 93%. The optical purity was 99% ee.

reactant | 1-(3-tert-Butoxyphenyl)ethylamine | 0.45 mol, 86 g | C(C)(C)(C)OC=1C=C(C=CC1)C(C)N | C12H19NO
reactant | isopropyl methoxyacetate | 0.98 mol, 129 g | COCC(=O)OC(C)C | C6H12O3
reactant | sulfuric acid | 0.12 mol, 29.5 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 250 ml | O | H2O
product | (R)—N-1-(3-tert-butoxyphenyl)ethylmethoxyacetamide | 70 g | C(C)(C)(C)OC=1C=C(C=CC1)[C@@H](C)NC(COC)=O | C15H23NO3
